US07214802B2
To a suspension of 308 mg (1.75 mmol) of 3-azido-4-methyl benzoic acid (U.S. Ser. No. 04/102,492) and 240 mg (1.75 mmol) of 2-chloro-5-ethynylpyridine in 1 mL of water and 2 mL of EtOH was added 243 μL (1.75 mmol) of Et3N. To this solution was added 1.75 mL of 1M aqueous sodium ascorbate followed by 1.75 mL of 0.1 M aqueous of CuSO4 and the resulting yellow suspension was stirred for two days. A 1 M solution of acetic acid in water (1.75 mL) was added along with an additional 2 mL of water. The suspension was stirred for 1 h, then was filtered, washed with water (2×2 mL) and hexanes (2×10 mL), and dried under suction to provide 470 mg of 3-[4-(6-chloro-pyridin-3-yl)-1,2,3-triazol-1-yl]-4-methyl-benzoic acid.

reactant | 3-azido-4-methyl benzoic acid | 1.75 mmol, 308 mg | N(=[N+]=[N-])C=1C=C(C(=O)O)C=CC1C | C8H7N3O2
reactant | 2-chloro-5-ethynylpyridine | 1.75 mmol, 240 mg | ClC1=NC=C(C=C1)C#C | C7H4ClN
reactant | Et3N | 1.75 mmol, 243 μL | CCN(CC)CC | C6H15N
reactant | sodium ascorbate | 1M, 1.75 mL | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | water | 1 mL | O | H2O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | water | 1.75 mL | O | H2O
catalyst | CuSO4 | [O-]S(=O)(=O)[O-].[Cu+2]
solvent | water | 2 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[4-(6-chloro-pyridin-3-yl)-1,2,3-triazol-1-yl]-4-methyl-benzoic acid | 470 mg | ClC1=CC=C(C=N1)C=1N=NN(C1)C=1C=C(C(=O)O)C=CC1C | C15H11ClN4O2
